US05158966
A. Preparation of 3-(1,1-dimethylethyl)-4-hydroxybenzaldehyde
Into 184.4 ml (1.494 mol) of N-methylformanilide were added dropwise, with cooling, 130.9 ml (1.404 mol) of phosphoryl chloride over a period of 20 minutes. The mixture was allowed to warm to room temperature and stirred for one hour. Ortho-tertbutylphenol (138.2 ml; 0.9 mol) was then added dropwise to the reaction solution over a period of 25 minutes. After phenol addition was complete, the resulting reaction mixture was stirred for an additional 30 minutes at room temperature and then heated to approximately 60° C. and stirred for five hours at that temperature. The reaction mixture was poured into a volume of crushed ice and extracted with chloroform. The aqueous layer was separated and washed again with chloroform. The chloroform layers were combined and extracted with 2000 ml of a 5% potassium hydroxide solution. The aqueous potassium hydroxide extract was then added to 1000 ml of chloroform. The pH of the resulting two-phase mixture was adjusted to approximately pH 2.0 with concentrated hydrochloric acid. The mixture's layers were separated and the aqueous layer was again extracted with chloroform. The organic layer from the two-phase mixture and the chloroform extract were combined, washed with water and then dried over sodium sulfate. The volatile components of the solution were removed under reduced pressure to provide a residue. This residue was dissolved in 100 ml of hot toluene and the resulting solution was diluted with 100 ml of hexanes. The solution was slowly cooled to room temperature while a precipitate formed. This precipitate was recovered by filtration, washed with hexanes and then dried under vacuum to provide 20.0 g of the desired subtitled intermediate.

reactant | N-methylformanilide | 1.494 mol, 184.4 ml | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | phosphoryl chloride | 1.404 mol, 130.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Ortho-tertbutylphenol | 0.9 mol, 138.2 ml | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(1,1-dimethylethyl)-4-hydroxybenzaldehyde | 20.0 g | CC(C)(C)C=1C=C(C=O)C=CC1O | C11H14O2
